US06136800
A suspension of 1.2 g of 3-hydroxy-7β-methyl-estra-1,3,5(10)-trien-17-one in 12 ml of toluene and 1.2 ml of dihydropyran is stirred with 5.6 mg of para-toluenesulfonic acid for 2 hours at room temperature. Then, it is diluted with ethyl acetate, washed with sodium bicarbonate solution as well as with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/acetone. 1.22 g of 7β-methyl-3-tetrahydropyranyloxy-estra-1,3,5(10)-trien-17-one is obtained.

reactant | 3-hydroxy-7β-methyl-estra-1,3,5(10)-trien-17-one | 1.2 g | OC1=CC=2C[C@@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1)=O)C | C19H24O2
reactant | para-toluenesulfonic acid | 5.6 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | dihydropyran | 1.2 ml | O1CCCC=C1 | C5H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7β-methyl-3-tetrahydropyranyloxy-estra-1,3,5(10)-trien-17-one | 1.22 g | C[C@@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)OC1OCCCC1)=O | C24H32O3
